US08084448B2
C. [2-Benzyloxy-4-(tert-butyldimethylsilanyloxy)-phenylamino]-acetic Acid Tert-butyl Ester
A mixture of 2-benzyloxy-4-(tert-butyldimethylsilanyloxy)-phenylamine, t-butyl bromoacetate (3.8 mL, 25.7 mmol), and potassium carbonate (7.1 g, 51.4 mmol) in DMF (20 mL) is heated at 60° C. for 18 h. Additional t-butyl bromoacetate (1 mL) is added and the mixture is stirred and heated for an additional 5 h. The mixture is poured into EtOAc and extracted once with water and four times with brine. The organic phase is dried over magnesium sulfate and the solvent removed under reduced pressure to furnish an oil consisting of product and desilylated product. A solution of this material, t-butyldimethychlorosilane (3.87 g, 25.7 mmol), imidazole (2.33 g, 34.2 mmol), and dimethylaminopyridine (3 mg) in DMF (15 mL) is stirred at RT for 18 h. This solution is poured into EtOAc and extracted with water (1×) and brine (5×). The organic phase is dried over magnesium sulfate and the solvent removed under reduced pressure to afford crude product, which is chromatographed on silica gel to afford the title compound: 1H NMR (CDCl3δ 7.27 (m, 5H), 6.26 (m, 3H), 4.96 (s, 2H), 4.45 (br s, 1H), 3.91 (s, 2H), 1.35 (s, 9H), 0.84 (s, 9H), 0.00 (s, 6H); (M+1)+=444.

reactant | 2-benzyloxy-4-(tert-butyldimethylsilanyloxy)-phenylamine | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)N | C19H27NO2Si
reactant | t-butyl bromoacetate | 25.7 mmol, 3.8 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | potassium carbonate | 51.4 mmol, 7.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | t-butyl bromoacetate | 1 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | t-butyldimethychlorosilane | 25.7 mmol, 3.87 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 34.2 mmol, 2.33 g | N1C=NC=C1 | C3H4N2
reactant | dimethylaminopyridine | 3 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | [2-Benzyloxy-4-(tert-butyldimethylsilanyloxy)-phenylamino]-acetic Acid Tert-butyl Ester | C(C)(C)(C)OC(CNC1=C(C=C(C=C1)O[Si](C)(C)C(C)(C)C)OCC1=CC=CC=C1)=O | C25H37NO4Si
